US05256551
0.1 ml of the aforesaid treated cell suspension was added to 25 ml of a reaction solution which contained per ml thereof, 100μmole of phosphate buffer (pH 8.0), 5 μmole of L-tryptophan and 0.04μmole of pyridoxalphosphoric acid, and reacted at 37° C. for 15 minutes. The amount of indole formed was determined by a conventional method [O. H. Smith and C. Janofsky: "Methods in Enzymology", Academic, New York, (1962, vol. 5, pages 794-806)].

reactant | phosphate | 100μmole, pH 8.0 | P(=O)([O-])([O-])[O-]
reactant | L-tryptophan | 5 μmole | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
product | indole | N1C=CC2=CC=CC=C12 | C8H7N
